US04447441
A mixture of 4-[4-(2-[2,2,2-trifluoroethyl]guanidino)pyrimid-2-ylthio]butyronitrile (0.14 g.) and concentrated H2SO4 was left at room temperature for 3 hours and then diluted with crushed ice and water. The solution was basified with 10 N aqueous NaOH and the mixture extracted three times with EtOAc. The combined extracts were dried and evaporated to dryness to give 4-[4-(2-[2,2,2-trifluoroethyl]guanidino)pyrimid-2-ylthio]butyramide (0.13 g.) which was characterised as the hydrogen maleate, m.p. 202°-203° on recrystallisation from aqueous EtOH.

reactant | 4-[4-(2-[2,2,2-trifluoroethyl]guanidino)pyrimid-2-ylthio]butyronitrile | 0.14 g | FC(CN=C(NC1=NC(=NC=C1)SCCCC#N)N)(F)F | C11H13F3N6S
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | NaOH | 10 N | [OH-].[Na+]
solvent | water | O | H2O
product | 4-[4-(2-[2,2,2-trifluoroethyl]guanidino)pyrimid-2-ylthio]butyramide | 0.13 g | FC(CN=C(NC1=NC(=NC=C1)SCCCC(=O)N)N)(F)F | C11H15F3N6OS
